US05990142
1A Ethyl 4-oxo-4H-1-benzopyran-2-carboxylate
A 2,68 M sodium ethoxide solution in ethanol (21,9 ml) was added slowly to a solution of 2-hydroxyacetophenone (1.76 ml, 14.7 mmol) and diethyl oxalate (3.98 ml, 29.4 mmol) in a mixture of dry ethyl ether (20 ml) and absolute ethanol (20 ml). The mixture was stirred under reflux for 3 h. Afterwards it was diluted with ethyl ether (40 ml), added with 1M HCl (25 ml) and extracted with ethyl ether (3×40 ml). The combined ether phases were dried and the solvents were removed by evaporation under reduced pressure. The obtained residue was dissolved in absolute ethanol (60 ml) and 0.380 ml of concentrated hydrochloric acid were added. The resulting mixture was left under stirring at 75° C. for 1 h. After this time, 50 ml of water were poured on the mixture which was extracted with ethyl acetate (3×50 ml). The organic phase was washed successively with a sodium bicarbonate saturated solution and a NaCl saturated solution, dried and the solvents were evaporated off under reduced pressure, to obtain a crude which was purified by crystallization in ethyl ether, thereby obtaining 2.660 g of the title product (83% yield).

reactant | sodium ethoxide | 2,68 M | [O-]CC.[Na+]
reactant | 2-hydroxyacetophenone | 14.7 mmol, 1.76 ml | OCC(=O)C1=CC=CC=C1 | C8H8O2
reactant | diethyl oxalate | 29.4 mmol, 3.98 ml | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | HCl | 1M, 25 ml | Cl | ClH
solvent | ethanol | 21,9 ml | C(C)O | C2H6O
solvent | ethyl ether | 40 ml | C(C)OCC | C4H10O
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | ethyl ether | 20 ml | C(C)OCC | C4H10O
product | Ethyl 4-oxo-4H-1-benzopyran-2-carboxylate | 2.660 g, 83% yield | O=C1C=C(OC2=C1C=CC=C2)C(=O)OCC | C12H10O4
